US06590118B1
Sodium hydride, 60% dispersion in mineral oil, (0.18 g, 4.5 mmol) was added to a solution of 2-aminothiophenol (0.59 ml, 4.0 mmol) in dry DMF (5 ml) at −20° C. The mixture was stirred at −20 to −30° C. for 10 minutes. A solution of 4-nitrophthalic acid dimethyl ester (0.83 g, 3.5 mmol) in dry DMF (5 ml) was added dropwise. The reaction mixture was stirred at −30° C.±5° C. for 1 hour and then at room temperature for 20 hours, poured into icewater (20 ml) and finally extracted with ethyl acetate (3×25 ml). The combined organic phase was washed with water (25 ml), dried over magnesium sulphate, and evaporated to dryness in vacuo. The crude product was purified on silica gel (eluent: methylene chloride) to give 4-(2-aminophenylsulfenyl)phthalic acid dimethyl ester (yield: 0.56 g (51%)) as a golden oil. 1H—NMR (CDCl3) in ppm: δ 3.85 (3H,s); 3.87 (3H,s); 4.29 (2H,broad s); 6.72-685 (2H,m); 7.07 (1H,d.d.); 7.23-7.34 (2H,m); 7.43 (1H,d.d.): 7.63 (1H,d).

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-aminothiophenol | 4.0 mmol, 0.59 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-nitrophthalic acid dimethyl ester | 3.5 mmol, 0.83 g | COC(C=1C(C(=O)OC)=CC(=CC1)[N+](=O)[O-])=O | C10H9NO6
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(2-aminophenylsulfenyl)phthalic acid dimethyl ester | yield: 0.56 g, 51% | COC(C=1C(C(=O)OC)=CC(=CC1)SC1=C(C=CC=C1)N)=O | C16H15NO4S
